US07919506B2
Step B: 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-2-cyclopentylethanol
To a solution of 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2-H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl-2-cyclopentylethanone (123 mg, 0.207 mmol) in methanol (15 mL) was added sodium borohydride (7.8 mg, 0.207 mmol) at room temperature. After 1 hour the solvent was removed under reduced pressure, the residue dissolved in 20 mL of ethyl acetate (20 mL) and washed with water (10 mL). The combined organics were dried with anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The residue was dissolved in dichloromethane and purified by flash chromatography on a 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 0-60% ethyl acetate in heptane) to yield the title compound as a clear oil (0.025 gm). 1H NMR (400 MHz, CDCl3) δ 7.76 (s, 1H) 7.62 (s, 2H) 7.56(d, J=7.8 Hz, 1H) 7.34 (s, 1H) 4.96-4.92 (m, 1H) 4.85 (s, 2H) 4.81 (q, J=15.3 Hz, J=16.1 Hz, 2H) 4.2 (s, 3H) 1.9-1.4 (m, 11H).

reactant | 2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2-H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl-2-cyclopentylethanone | 0.207 mmol, 123 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC2CCCC2)=O)C=C(C1)C(F)(F)F)(F)F | C26H24F9N5O
reactant | sodium borohydride | 0.207 mmol, 7.8 mg | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-2-cyclopentylethanol | 0.025 gm | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC2CCCC2)O)C=C(C1)C(F)(F)F)(F)F | C26H26F9N5O
